* gnetlist -g spice-sdb -o monostable.net monostable.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from tlc555.mod vvvvvvvv
******************************************************************************
* TLC555 TIMER MACROMODEL ****************************************************
****************************************4/1/92*****************************DBB
* REV N/A ********************************************************************
******************************************************************************
*                  COMMON
*                  |  TRIGGER
*                  |  |  OUTPUT
*                  |  |  |  RESET
*                  |  |  |  |  CONTROL
*                  |  |  |  |  |  THRESHOLD
*                  |  |  |  |  |  |  DISCHARGE
*                  |  |  |  |  |  |  |	VDD
*                  |  |  |  |  |  |  |	|
.SUBCKT  TLC555    1  2  3  4  5  6  7	8
EREF 15 1 (8,1) .5
GSOURCE 8 3 (8,26) 12.5E-3
GSINK 3 1 (26,1) 67E-3
VD1 8 27 DC .8
VD2 28 1 DC .85
VREF 30 1 DC 1.2
C1 29 1 700E-15
RREF2 30 1 100E3
RREF 15 1 100E3
ROUT 3 1 100K
R1 6 1 500E9
R2 2 1 500E9
R3 8 5 75E3
R4 5 9 75E3
R5 9 1 75E3
R6 10 11 1E3
R7 13 14 1E3
R8 8 12 150E3
R9 4 8 500E9
R10 20 19 1E3
R11 16 17 1E3
R12 8 18 150E3
R13 8 21 150E3
R14 22 23 1E3
R15 8 26 150E3
R16 24 25 1E3
R19 7 1 500E9
R20 29 26 1E6
D1 1 11 DMOD
D2 12 11 DMOD
D3 12 14 DMOD
D4 1 14 DMOD
D5 18 17 DMOD
D6 1 17 DMOD
D7 18 19 DMOD
D8 1 19 DMOD
D9 21 14 DMOD
D10 21 25 DMOD
D11 1 23 DMOD
D12 18 23 DMOD
D13 26 25 DMOD
D14 1 25 DMOD1
D15 3 27 DMOD
D16 28 3 DMOD
E1 10 1 (6,5) 1000
E2 13 1 (2,9) 1000
E3 16 1 (15,12) 1000
E4 22 1 (15,21) 1000
E5 24 1 (15,18) 1000
E7 20 1 (4,30) 1000
M1 7 29 1 1 MOSMOD
.MODEL MOSMOD NMOS (LEVEL=1 KP=1 VTO=1 RD=5)
.MODEL DMOD D (RS=1E-6)
.MODEL DMOD1 D (RS=1E-6 IS=1E-9)
.ENDS
*^^^^^^^^  End of included SPICE model from tlc555.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
C1 R 0 1u  
C2 1 0 10p  
Vin IN 0 pulse 3 0 1 0 0 0.1 5
R OUT 0 1k  
R1 Vcc R 3meg  
V1 Vcc 0 3
XU1 0 IN OUT Vcc 1 R R Vcc TLC555
.end
